US06124323
A mixture of 4-benzyl-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine (1.40 g, 3.1 mmol) and 10% pd/C (about 500 mg) in MeOH (30 mL) was hydrogenated to give 1.0 g (98%) of 1-(2-(3-amino-4-hydroxyphenoxy)ethyl)-4-benzylpiperidine as a viscous oil. 1H NMR (CDCl3): 1.40-1.68 (m, 5H), 2.06-2.13 (m, 2H), 2.530 (t, 2H, J=5.5), 6.000 (d, 2H, J=8), 6.242 (bs, 1H), 6.534 (d, 1H, J=8), 7.12-7.19 (m, 5H).

reactant | 4-benzyl-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine | 3.1 mmol, 1.40 g | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C27H30N2O4
solvent | MeOH | 30 mL | CO | CH4O
product | 1-(2-(3-amino-4-hydroxyphenoxy)ethyl)-4-benzylpiperidine | 1.0 g, 98% | NC=1C=C(OCCN2CCC(CC2)CC2=CC=CC=C2)C=CC1O | C20H26N2O2
